US06172085B2
2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(4-nitrobenzoyl)-1-piperazinyl]methyl]-5-benzofuranamine
Using 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine and 4-nitrobenzoic acid, the procedure of Example 10, presented hereinafter, was otherwise followed to provide the title compound. Yield 51%.

reactant | 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCNCC2 | C17H27N3O
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(4-nitrobenzoyl)-1-piperazinyl]methyl]-5-benzofuranamine | Yield 51% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCN(CC2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O | C24H30N4O4
